US05739140
An 0.5M solution of 4-anisyl magnesium bromide in THF (66.7 mL. 33.3 mmol) was added dropwise to an ice-water cooled solution of benzyl acetone (5.0 mL, 33.3 mmol) in THF. The resulting reaction was allowed to warm to room temperature, and after 1h was partitioned between aqueous ammonium chloride and ether. The organic phase was dried over magnesium sulfate, concentrated, and purified by chromatography over silica gel eluted with 1:5 ethyl acetate/hexanes to afford 6.2 g of 4-(1-hydroxy-4-phenyl-2-butyl) anisole as a clear oil.

reactant | 4-anisyl magnesium bromide | C(C1=CC=C(C=C1)OC)[Mg]Br
reactant | benzyl acetone | 33.3 mmol, 5.0 mL | C(C1=CC=CC=C1)CC(C)=O | C10H12O
reactant | THF | C1CCOC1 | C4H8O
reactant | THF | 33.3 mmol, 66.7 mL | C1CCOC1 | C4H8O
product | 4-(1-hydroxy-4-phenyl-2-butyl) anisole | 6.2 g | OCC(CCC1=CC=CC=C1)C1=CC=C(C=C1)OC | C17H20O2
